US04587047
(A) (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-N-(methylsulfonyl)-2-oxo-1-azetidinecarboxamide
(S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-2-azetidinone (1.12 g) was dissolved in dry tetrahydrofuran (120 ml) and stirred at -75° C. under dry nitrogen. sec-Butyl lithium (4.44 ml of a 1.35 M solution in cyclohexane) was added and followed in two minutes by methylsulfonyl isocyanate (0.72 ml). After stirring for 25 minutes at -75° C., the reaction was quenched by the addition of 0.5 M pH 5.5 monobasic potassium phosphate buffer (60 ml), diluted with ethyl acetate-water, acidified to pH 2.5 with 3N hydrochloric acid, and (60 ml), diluted with ethyl acetate-water, acidified to pH 2.5 with 3N hydrochloric acid, and extracted with ethyl acetate (three times). The extract was washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness in vacuo to yield the desired product as a foam (1.73 g).

reactant | (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-2-azetidinone | 1.12 g | CC(C)(OC(=O)N[C@@H]1C(NC1)=O)C | C8H14N2O3
reactant | sec-Butyl lithium | C(C)(CC)[Li]
reactant | methylsulfonyl isocyanate | 0.72 ml | CS(=O)(=O)N=C=O | C2H3NO3S
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | (S)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]-N-(methylsulfonyl)-2-oxo-1-azetidinecarboxamide | 1.73 g | CC(C)(OC(=O)N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)C)=O)C | C10H17N3O6S
